US07812028B2
Preparation of 5-(4-Chloro-phenyl)-6-(cyclopropylmethyl-methyl-amino)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 43, using 5-bromo-6-chloro-nicotinic acid methyl ester, cyclopropylmethyl methylamine hydrochloride, (commercially available), 4-chlorophenyl-boronic acid (commercially available) and (1R,2R)-2-amino-cyclohexanol (commercially available) as starting materials. MS (ISP): 414.3 (M+H+).

reactant | 5-bromo-6-chloro-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | cyclopropylmethyl methylamine hydrochloride | Cl.C1(CC1)CNC
reactant | 4-chlorophenyl-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-(4-Chloro-phenyl)-6-(cyclopropylmethyl-methyl-amino)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)N(C)CC1CC1 | C23H28ClN3O2
